US04057578
6.25 g (0.1 mole) vinyl chloride, 23.6 g (0.1 mole) trichloromethane phosphonic dichloride, 540 mg (2 mmole) ferric chloride hexahydrate, 412 mg (3 mole) triethylammonium chloride, and 424 mg (2 mmole) benzoin were heated in 30 ml acetonitrile in an ampoule at 100° during 15 hours. After opening of the ampoule, and evaporating unconverted vinyl chloride, the reaction product was diluted with methylene chloride, washed twice with ice-cold 1N aqueous hydrochloric acid and dried on calcium chloride. The solvent was distilled at atmospheric pressure, and unconverted phosphonic dichloride sublimed at 25 mm and120°. The remainder was fractionated in vacuo, giving 8.3 g 1,1,3,3-tetrachloropropane-1-phosphonic dichloride, bp/0.1: 66° -67°; containing 70.3% Cl (Calc. for C3H3Cl6OP: 71.0%).

reactant | vinyl chloride | 0.1 mole, 6.25 g | C(=C)Cl | C2H3Cl
reactant | trichloromethane phosphonic dichloride | 0.1 mole, 23.6 g | ClC(P(=O)(Cl)Cl)(Cl)Cl | CCl5OP
reactant | triethylammonium chloride | 3 mole, 412 mg | [Cl-].C(C)[NH+](CC)CC
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
catalyst | benzoin | 2 mmole, 424 mg | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
product | 1,1,3,3-tetrachloropropane-1-phosphonic dichloride | 8.3 g | ClC(CC(Cl)Cl)(P(=O)(Cl)Cl)Cl | C3H3Cl6OP
